US08877774B2
Step 4. Methyl 1-(4-((3-(hydroxy(phenyl)methyl)phenoxy)methyl)phenyl)-cyclopropanecarboxylate
To a stirred solution of methyl 1-(4-((3-benzoylphenoxy)methyl)phenyl)-cyclopropanecarboxylate (1.85 g, 4.787 mmol) in methanol (22.6 mL) at 0° C. under an atmosphere of nitrogen, was added sodium borohydride (0.181 g, 4.787 mmol) in one portion. The reaction mixture was stirred at 0° C. for 1 hour and then allowed to warm to room temperature. After stirring for 40 minutes, the reaction was cooled to 0° C., and additional sodium borohydride (0.091 g, 2.380 mmol) was added. The reaction mixture was allowed to warm to room temperature and stirred for 30 minutes. The reaction was quenched with water (3.5 mL), filtered to remove insoluble material, and then concentrated under reduced pressure. Water was added to the residue and extracted with ethyl acetate (×2). The combined organic extracts were washed with 10% aqueous potassium carbonate (×2), brine, dried (magnesium sulfate), filtered, and concentrated under reduced pressure to afford the title compound as a red oil (1.824 g, 98%). The material was used directly in the next step with no further purification.

reactant | methyl 1-(4-((3-benzoylphenoxy)methyl)phenyl)-cyclopropanecarboxylate | 4.787 mmol, 1.85 g | C(C1=CC=CC=C1)(=O)C=1C=C(OCC2=CC=C(C=C2)C2(CC2)C(=O)OC)C=CC1 | C25H22O4
reactant | sodium borohydride | 4.787 mmol, 0.181 g | [BH4-].[Na+]
reactant | sodium borohydride | 2.380 mmol, 0.091 g | [BH4-].[Na+]
solvent | methanol | 22.6 mL | CO | CH4O
product | Methyl 1-(4-((3-(hydroxy(phenyl)methyl)phenoxy)methyl)phenyl)-cyclopropanecarboxylate | 1.824 g, 98% | OC(C=1C=C(OCC2=CC=C(C=C2)C2(CC2)C(=O)OC)C=CC1)C1=CC=CC=C1 | C25H24O4
